US07745475B2
4-(3-[(1S)-2-Hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoic acid
A solution of ethyl 4-(3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoate (3.78 g, 6.84 mmol) in THF (100 mL) was added to a solution of lithium hydroxide monohydrate (1.44 g, 33 mmol) in water (50 mL). The mixture was stirred at ambient temperature for 72 hours. 1M Hydrochloric acid was added until pH=2 and the mixture stirred for a further 1 hour. The THF was removed in vacuo and the solid precipitate filtered off, washed with water and dried in vacuo to give the desired compound (3.06 g).

reactant | ethyl 4-(3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethoxy)-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoate | 6.84 mmol, 3.78 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(OC2=CC=C(C(=O)OCC)C=C2)C=C(C1)C(=O)NC1=NN(C=C1)C)C | C29H39N3O6Si
reactant | lithium hydroxide monohydrate | 33 mmol, 1.44 g | O.[OH-].[Li+]
reactant | Hydrochloric acid | 1M | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | 4-(3-[(1S)-2-Hydroxy-1-methylethoxy]-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenoxy)benzoic acid | 3.06 g | OC[C@@H](OC=1C=C(OC2=CC=C(C(=O)O)C=C2)C=C(C1)C(=O)NC1=NN(C=C1)C)C | C21H21N3O6
